US04029816
2-Iodo-4-(1-methylethyl)phenol (13.1 g., 0.05 mole) is dissolved in a mixture of acetic acid (50 ml.) and 96% sulfuric acid (5 ml.) and powdered 2-chloro-N-(hydroxymethyl)acetamide (6.15 g., 0.05 mole) is added during 10 minutes with stirring at 20° C. The solution is stirred for 2.5 hours and then added to 300 ml. of water. The crude solid (18 g.) is collected and refluxed in ethanol (25 ml.)-hydrochloric acid (10 ml.) for 2 hours. The solid (7.5 g.) that separates on cooling, namely 2-aminomethyl-4-(1-methylethyl)-6-iodophenol hydrochloride, is purified by crystallization from ethanol 12N-hydrochloric acid (7:3) to obtain 2-aminomethyl-4-(1-methylethyl)-6-iodophenol hydrochloride (7 g.), m.p. 211°-212° C. (dec.).

reactant | 2-Iodo-4-(1-methylethyl)phenol | 0.05 mole, 13.1 g | IC1=C(C=CC(=C1)C(C)C)O | C9H11IO
reactant | 2-chloro-N-(hydroxymethyl)acetamide | 0.05 mole, 6.15 g | ClCC(=O)NCO | C3H6ClNO2
reactant | water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 2-aminomethyl-4-(1-methylethyl)-6-iodophenol hydrochloride | 7 g | Cl.NCC1=C(C(=CC(=C1)C(C)C)I)O | InChI=1S/C10H14INO.ClH/c1-6(2)7-3-8(5-12)10(13)9(11)4-7;/h3-4,6,13H,5,12H2,1-2H3;1H
